US05204365
Methyl 2-[3-(phenylhydroxymethyl)phenyl]propionate (IVc with R1=CH3 and R2 =H)
To a solution of 164 g of methyl 2-(3-benzoylphenyl)propionate in 1100 mL methanol at a 0° C., 14 of sodium borohydride were added, keeping the temperature between 7 and 10° C. After 2 hours of stirring at 0° C., TLC (silica-gel/chloroform) showed total consumption of starting material. The solvent was evaporated under vacuum. The residue was dissolved in 400 mL of methylene chloride. The solution was washed three times with 250 ml of 1% hydrochloric acid, until acid pH, and then with saturated sodium chloride solution, until neutral pH. After evaporation of the solvent, the oily colourless residue wheighted 160,0 g (97% yield) and was identified as the title compound. IR Spectrum (film), cm-1 : 3480 (broad), 3080-2880, 1730, 1455, 1200, 1175, 1110, 700. In the 200 MHz 1H-NMR apparatus the signal of CH3 appears as two doublets of similar intensity, indicating the presence of the two possible diasteromers. By following analogous procedures, compounds IVc of Table 2 were obtained.

reactant | methyl 2-(3-benzoylphenyl)propionate | 164 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C(=O)OC)C | C17H16O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1100 mL | CO | CH4O
product | Methyl 2-[3-(phenylhydroxymethyl)phenyl]propionate | 97% yield | C1(=CC=CC=C1)C(C=1C=C(C=CC1)C(C(=O)OC)C)O | C17H18O3
